US04000295
4-sec-BUTYLTHIO-5,7-DINITRO-2-TRIFLUOROMETHYLBENZIMIDAZOLE
In 200 milliliters of ethanol, 1 gram of sodium (0.04 mole) was reacted with 3.6 grams of 2-butanethiol (0.04 mole). The mixture was stirred for one-half hour. Then 4-chloro-5,7-dinitro-2-trifluoromethylbenzimidazole (6.2 grams; 0.02 mole) was added, and the resulting reaction mixture was stirred overnight, poured into water, acidified, and filtered to separate the desired 4-sec-butylthio-5,7-dinitro-2-trifluoromethylbenzimidazole. It was recrystallized twice from a mixture of benzene and an aliphatic hydrocarbon fraction boiling at 60°-80° C., m.p., 111°-15° C.

reactant | sodium | 0.04 mole, 1 gram | [Na] | Na
reactant | 2-butanethiol | 0.04 mole, 3.6 grams | CC(CC)S | C4H10S
reactant | 4-chloro-5,7-dinitro-2-trifluoromethylbenzimidazole | 0.02 mole, 6.2 grams | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H2ClF3N4O4
reactant | water | O | H2O
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
product | 4-sec-BUTYLTHIO-5,7-DINITRO-2-TRIFLUOROMETHYLBENZIMIDAZOLE | C(C)(CC)SC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C12H11F3N4O4S
